US07456168B2
6-Bromo-8-cyclopentyl-2-(5-[1,4]diazepan-1-yl-pyridin-2-ylamino)-5-methyl-8H-pyrido[2,3-d]pyrimidin-7-one
Hydrogen chloride gas was bubbled through a solution of 4-[6-(6-bromo-8-cyclopentyl-5-methyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-azepane-1-carboxylic acid tert-butyl ester (80 mg, 0. 13 mmol) in chloroform (5 mL) for 30 min. The solvents were evaporated and the residue was titurated with ethanol (5 mL). 6-Bromo-8-cyclopentyl-2-(5-[1,4]diazepan-1-yl-pyridin-2-ylamino)-5-methyl-8H-pyrido[2,3-d]pyrimidin-7-one hydrochloride salt was collected as a yellow powder (44 mg, 0.089 mmol). MS (APCI+) 499, 501 (M+2, 100); 1H NMR δ(400 MHz, DMSO-d6) 8.84 (s, 2H), 8.13 (s, 1H), 7.66-7.64 (m, 1H), 7.42-7.39 (m, 1H), 5.86-5.82 (m, 1H), 4.36 (s, 1H), 3.81 (s, 2H), 3.60 (s, 2H), 3.16 (s, 2H), 2.09 (s, 4H), 1.99 (s, 2H), 1.79 (br, 2H), 1.60 (s, 2H), 1.05 (s, 2H); Anal. Calc'd for C23H28Br1N7O1, 0.15HCl, 2.55C2H5OH, 0.45CHCl3: C, 50.79; H, 6.55; N, 14.52. Found: C, 50.83; H, 5.69; N, 14.21.

reactant | Hydrogen chloride | Cl | ClH
reactant | 4-[6-(6-bromo-8-cyclopentyl-5-methyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-azepane-1-carboxylic acid tert-butyl ester | 13 mmol, 80 mg | C(C)(C)(C)OC(=O)N1CCC(CCC1)C=1C=NC(=CC1)NC=1N=CC2=C(N1)N(C(C(=C2C)Br)=O)C2CCCC2 | C29H37BrN6O3
reactant | 6-Bromo-8-cyclopentyl-2-(5-[1,4]diazepan-1-yl-pyridin-2-ylamino)-5-methyl-8H-pyrido[2,3-d]pyrimidin-7-one hydrochloride salt | Cl.BrC1=C(C2=C(N=C(N=C2)NC2=NC=C(C=C2)N2CCNCCC2)N(C1=O)C1CCCC1)C
solvent | chloroform | 5 mL | C(Cl)(Cl)Cl | CHCl3
product | 6-Bromo-8-cyclopentyl-2-(5-[1,4]diazepan-1-yl-pyridin-2-ylamino)-5-methyl-8H-pyrido[2,3-d]pyrimidin-7-one | BrC1=C(C2=C(N=C(N=C2)NC2=NC=C(C=C2)N2CCNCCC2)N(C1=O)C1CCCC1)C | C23H28BrN7O
